Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
large bowel obstruction
 
Major Surgical or Invasive Procedure:
Sigmoidoscopy
 
History of Present Illness:
___ prior RNYGB+CCY ___ who presents to the ED with LBO. Of 
significance, patient started to experience weakness and has not 
had a BM since ___. Patient also has not passed gas in the past 
few days.Patient denies nausea/vomiting/fever/chills. Patient 
tolerated regular meals well in the past 2 days. Patient at 
baseline has lost weight since his surgery, and currently 
remains active. Of importance, patient's last colonoscopy was 
___ which demonstrated a 2cm polyp 20cm from the anal verge. In 
the ED patient had a CT A/P which demonstrated marked dilation 
of the colon, with cecum dilated to 12cm with focal transition 
point at the proximal sigmoid colon, where there may be a 
stricture,concerning for malignancy. 

 
Past Medical History:
PMH: HTN, OSA, morbid obesity

PSH: eye surgery ___, RNYGB+CCY ___ ( ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
GEN: NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM: normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect

 
Pertinent Results:
___ 07:18AM BLOOD WBC-5.7 RBC-4.89 Hgb-11.3* Hct-39.0* 
MCV-80* MCH-23.1* MCHC-29.0* RDW-18.2* RDWSD-51.3* Plt ___
___ 08:05AM BLOOD WBC-5.5 RBC-4.75 Hgb-11.2* Hct-38.0* 
MCV-80* MCH-23.6* MCHC-29.5* RDW-17.7* RDWSD-50.8* Plt ___
___ 07:50AM BLOOD WBC-6.3 RBC-4.64 Hgb-10.7* Hct-36.8* 
MCV-79* MCH-23.1* MCHC-29.1* RDW-17.6* RDWSD-49.9* Plt ___
___ 12:55PM BLOOD Glucose-84 UreaN-7 Creat-0.8 Na-145 K-3.8 
Cl-105 HCO3-30 AnGap-10
___ 07:18AM BLOOD Glucose-159* UreaN-6 Creat-0.9 Na-146 
K-3.2* Cl-106 HCO3-28 AnGap-12
___ 11:20PM BLOOD Glucose-109* UreaN-7 Creat-0.8 Na-145 
K-3.1* Cl-106 HCO3-28 AnGap-11
___ 12:55PM BLOOD Calcium-8.7 Phos-1.8* Mg-2.0
___ 07:18AM BLOOD Calcium-8.8 Phos-2.1* Mg-2.0
___ 07:50AM BLOOD Calcium-8.5 Phos-3.5 Mg-2.4
___ 04:30PM BLOOD Albumin-4.5 Calcium-9.4 Phos-3.6 Mg-2.4
 
Brief Hospital Course:
Mr. ___ is a ___ yo M PMHx obesity sp RYGBP who presents 
with sigmoid narrowing causing large bowel obstruction with area 
concerning for benign vs malignant stricture. He was admitted to 
the colorectal service, NPO with fluids, serial abdominal exams 
and stable. HD#2, patient underwent GI endoscopic stent 
placement,3 cm mass was seen and biopsied, pathology pending. 
Following procedure, patient diet was advanced to clears and 
tolerated well. He was started on bowel regimen, Miralax daily. 
HD#3, diet was advanced to regular, low residue and tolerated 
well. HD#4 He was started on prophylaxis Lovenox 40 mg SC bid 
for preoperative surgical plan.
Electrolytes were monitored closely and noted to have 
hypokalemia and received potassium repletion and monitored on 
telemetry. By HD#5, potassium had normalized to 3.8. 
At time of discharge, patient was doing well, tolerating a diet, 
passing gas and having bowel movements. He was discharged home 
on prophylaxis Lovenox injections, timing of surgery to be 
determined by Dr. ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 200 mg PO DAILY 
2. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 40 mg SC BID  Prophylaxis  
RX *enoxaparin 40 mg/0.4 mL 1 syringe sc twice a day Disp #*30 
Syringe Refills:*0 
2.  Gabapentin 600 mg PO QHS Duration: 2 Doses 
RX *gabapentin 600 mg 1 capsule(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H preop 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth once a 
day Disp #*4 Tablet Refills:*0 
4.  Neomycin Sulfate 500 mg PO AS DIRECTED  
as directed in the pre-operative preparation 
RX *neomycin 500 mg 1 tablet(s) by mouth once a day Disp #*8 
Tablet Refills:*0 
5.  amLODIPine 5 mg PO DAILY  
6.  LamoTRIgine 200 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LARGE BOWEL OBSTRUCTION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for large bowel obstruction 
and underwent GI endoscopic stent, a 3 cm mass was seen in the 
sigmoid colon which was biopsied and results pending at 
discharge. Your diet was slowly advanced to clear liquids to 
regular diet and tolerated well. You were also started on bowel 
regimen, Colace and Miralax that you should continue to take as 
prescribed. During this admission, your potassium levels were 
low and treated with potassium supplements. Your potassium 
levels have since normalized.

You are being discharged home on Lovenox injections to prevent 
blood clots in preparation for your surgery. You will take this 
medication for a total of 30 days (including doses in hospital), 
please finish the entire prescription. Please monitor for any 
signs of bleeding: fast heart rate, bloody bowel movements, 
abdominal pain, bruising, feeling faint or weak. If you have any 
of these symptoms please call our office or seek medical 
attention immediately. Please avoid any contact activity and 
take extra caution to avoid falling while taking Lovenox.  

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___